US03951989
Reaction of methyl 2-amino-4-methylthiophene-3-carboxylate with diethyl ethoxymethylenemalonate in a manner similar to that used in Reference Example 10 yields diethyl (3-methoxycarbonyl-4-methylthienyl)aminomethylenemalonate as crystals melting at 105.5°-106°C.

reactant | methyl 2-amino-4-methylthiophene-3-carboxylate | NC=1SC=C(C1C(=O)OC)C | C7H9NO2S
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl (3-methoxycarbonyl-4-methylthienyl)aminomethylenemalonate | COC(=O)C1=C(SC=C1C)NC=C(C(=O)OCC)C(=O)OCC | C15H19NO6S
